US08497264B2
A 250 ml RB flask was charged with (S)-7′-bromo-4′-fluoro-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (1.0 g, 2.54 mmol), PdCl2(Cy2C6H4NMe2)2 (0.126 g, 0.178 mmol) and 2-fluoropyridin-3-ylboronic acid (0.538 g, 3.81 mmol). Dioxane (12.72 mL) and potassium carbonate (1M solution) (7.63 mL, 7.63 mmol) were added, and the mixture was flushed with argon and heated to 85° C. for 30 min. The mixture was cooled to RT and diluted with EtOAc. The organic layer was separated and concentrated under reduced pressure to give a yellow foam. The residue was purified by chromatography (5-50% of EtOAc/MeOH/NH4OH 90:10:1 in EtOAc) to afford (S)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (0.82 g, 2.003 mmol, 79% yield).

reactant | (S)-7′-bromo-4′-fluoro-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 2.54 mmol, 1.0 g | BrC1=CC=C2OC=3C(=CC(=CC3[C@@]3(C2=C1)COCC(=N3)N)OC)F | C17H14BrFN2O3
reactant | 2-fluoropyridin-3-ylboronic acid | 3.81 mmol, 0.538 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium carbonate | 7.63 mmol, 1M, 7.63 mL | C([O-])([O-])=O.[K+].[K+]
solvent | Dioxane | 12.72 mL | O1CCOCC1 | C4H8O2
product | (S)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-methoxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 2.003 mmol, 0.82 g, 79% yield | FC1=CC(=CC=2[C@@]3(C4=CC(=CC=C4OC12)C=1C(=NC=CC1)F)COCC(=N3)N)OC | C22H17F2N3O3
